US04642351
Preparation of N-phenyl-imidazolidinone
A mixture of phenyl isocyanate (50 mmoles), 2-oxazolidinone (50 mmoles) and anhydrous AlCl3 (40 mg, 0.3 mmole) is heated at 195° C. for 6 hours with stirring. The reaction mixture is dissolved in dichloromethane and the resulting solution is washed with water twice. The dichloromethane solution is dried and evaporated and the residue distilled at reduced pressure. The distillate is recrystallized from hot hexane to give a yield of 48 percent of the desired product, m.p. 157° C.-159° C.

reactant | phenyl isocyanate | 50 mmoles | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-oxazolidinone | 50 mmoles | O1C(NCC1)=O | C3H5NO2
reactant | AlCl3 | 0.3 mmole, 40 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-phenyl-imidazolidinone | yield of 48 percent | C1(=CC=CC=C1)N1C(NCC1)=O | C9H10N2O
